US03953499
A mixture of 1.3 g. of methyl 15-methyl-8,11,14-eicosatrienoic acid, 12.8 ml of 95% ethanol, 1.1 g. of potassium hydroxide and 1.1 ml. of water under a nitrogen atmosphere was heated under reflux for 2hours, then water and Skellysolve "B" (mixed hexanes) were added. The aqueous and organic layers were separated and the aqueous layer was made acid with 3N hydrochloric acid, then extracted with ether. The ether extract was washed with water, then with saturated aqueous sodium chloride, dried over sodium sulfate, and evaporated leaving a residue comprising 15-methyl-8,11,14-eicosatrienoic acid. The residue was distilled in a short path tube at bath temperatures of about 180°C. and a pressure of about 0.007 mm. The distillate was dissolved in 5% ethyl acetate-benzene and chromatographed over 100 g. of acid washed silica gel. Elution with 600 ml. 5%, 500 ml. 10% and 200 ml. 25% ethyl acetate in benzene, then with 100 ml. of ethyl acetate, collecting 50 ml. fractions, and evaporation of the eluate fractions gave a first peak of 183 mg., followed by a 448 mg. peak comprising 15-methyl-8,11,14-eicosatrienoic acid showing one spot on TLC analysis, and having the following NMR absorptions:

reactant | methyl 15-methyl-8,11,14-eicosatrienoic acid | CC(C(=O)O)CCCCCC=CCC=CCC=C(CCCCC)C | C22H38O2
reactant | ethanol | 12.8 ml | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 15-methyl-8,11,14-eicosatrienoic acid | CC(=CCC=CCC=CCCCCCCC(=O)O)CCCCC | C21H36O2
